US05760021
A suspension of ethyl 2-oxo-3-(imidazo[1,2-a]pyridin-3-yl)propanoate (2.32 g; 0.01 mole) in 5.5 g (0.05 mole) of dimethylphosphite is stirred at ambient temperature for 3 days. The excess dimethylphosphite is removed under high vacuum on a rotary evaporator at a bath temperature of about 55° to give the crude product. This is purified by flash chromatography on silica gel to afford ethyl 2-dimethoxyphosphinyl-2-hydroxy-3-(imidazo[1,2-a]pyridin-3-yl)propanoate.

reactant | ethyl 2-oxo-3-(imidazo[1,2-a]pyridin-3-yl)propanoate | 0.01 mole, 2.32 g | O=C(C(=O)OCC)CC1=CN=C2N1C=CC=C2 | C12H12N2O3
reactant | dimethylphosphite | 0.05 mole, 5.5 g | COP(OC)[O-]
product | ethyl 2-dimethoxyphosphinyl-2-hydroxy-3-(imidazo[1,2-a]pyridin-3-yl)propanoate | COP(=O)(C(C(=O)OCC)(CC1=CN=C2N1C=CC=C2)O)OC | C14H19N2O6P
